US06172085B2
Sodium 1-[(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)methyl]-4-piperidinecarboxylate
To a solution of ethyl 1-[(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)methyl]-4-piperidinecarboxylate (10 g) in ethanol (40 mL) was added 5.7 mL of 5N-aqueous sodium hydroxide and the mixture was stirred under nitrogen gas at room temperature for 2 hours. The precipitate was collected by filtration and washed with diethyl ether to provide 7.5 g of the title compound. Yield 75%. The filtrate was concentrated under reduced pressure and the solid residue was washed thoroughly with diethyl ether to provide an additional 1.4 g of the title compound. Yield 14%. These products were not further purified but directly submitted to the next reaction.

reactant | ethyl 1-[(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)methyl]-4-piperidinecarboxylate | 10 g | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)C(=O)OCC)C1C)C)C | C21H32N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | Sodium 1-[(5-amino-2,4,6,7-tetramethyl-2,3-dihydrobenzofuran-2-yl)methyl]-4-piperidinecarboxylate | 7.5 g, Yield 75% | NC=1C(=C(C2=C(CC(O2)(C)CN2CCC(CC2)C(=O)[O-])C1C)C)C.[Na+] | InChI=1S/C19H28N2O3.Na/c1-11-12(2)17-15(13(3)16(11)20)9-19(4,24-17)10-21-7-5-14(6-8-21)18(22)23;/h14H,5-10,20H2,1-4H3,(H,22,23);/q;+1/p-1
